US08357694B2
This product was synthesized as described in general procedure 2 except 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate was used instead of 4-(6-(3-bromophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate and N-methylbutan-1-amine instead of piperidine to afford N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride. 1H-NMR 400 MHz (CDCl3) δ 8.44 (dd, J=7.4, 1.1 Hz, 1H), 8.12 (s, 1H), 7.62 (d, J=8.6 Hz, 2H), 7.46-7.39 (m, 3H), 7.24-7.19 (m, 3H), 7.12 (t, J=7.4 Hz, 1H), 7.04 (d, J=7.4 Hz, 2H), 6.75 (dd, J=7.8, 1.5 Hz, 1H), 4.85 (t, J=2.2 Hz, 1H), 3.18-3.12 (m, 2H), 2.79-2.76 (m, 2H), 2.61-2.59 (m, 2H), 2.41 (t, J=7.4 Hz, 1H), 2.31 (s, 3H), 1.51-1.47 (m, 2H), 1.36-1.30 (m, 2H), 0.93 (t, J=7.4 Hz, 3H). LCMS m/e 498 (M+H).

reactant | 4-(6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | N-methylbutan-1-amine | CNCCCC | C5H13N
product | N-(4-(2-(butyl(methyl)amino)ethyl)phenyl)-6-(2-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.C(CCC)N(CCC1=CC=C(C=C1)NC1=NC=2C3=C(C(CC2C=N1)C1=C(C=CC=C1)Cl)C=CC=C3)C | InChI=1S/C31H33ClN4.ClH/c1-3-4-18-36(2)19-17-22-13-15-24(16-14-22)34-31-33-21-23-20-28(26-10-7-8-12-29(26)32)25-9-5-6-11-27(25)30(23)35-31;/h5-16,21,28H,3-4,17-20H2,1-2H3,(H,33,34,35);1H
